US08633211B2
Intermediate R {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl}-acetic acid tert-butyl ester
A 25 ml round bottomed flask charged with (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl)-acetic acid t-butyl ester (14.9 mg, 0.054 mmol), 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide (26.5 mg, 0.06 mmol), and Cs2CO3 (50.9 mg, 0.11 mmol) is treated with DMF (3 ml) and the solution stirred at RT. After 2 hours, the reaction mixture is treated with water and stirred for 10 minutes. The product is extracted into EtOAc and washed with water (3×10 ml). The organic portions are dried (MgSO4), filtered and concentrated to give the title compound, [M+H]+ 505

reactant | (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl)-acetic acid t-butyl ester | 0.054 mmol, 14.9 mg | C(C)(C)(C)OC(CN1C(NC2=C(C1=O)N=CC=C2)=O)=O | C13H15N3O4
reactant | 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide | 0.06 mmol, 26.5 mg | BrCC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC | C10H11BrClNO3
reactant | Cs2CO3 | 0.11 mmol, 50.9 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(N(C2=C(C1=O)N=CC=C2)CC(NC2=C(C=C(C(=C2)Cl)OC)OC)=O)=O)=O | C23H25ClN4O7
